US06337423B1
Under a nitrogen atmosphere, bromoethanol (29 mmols) was dissolved in 25 mL ether. Pyridine (34 mmols) was added to the solution, followed by a solution of 4-nitrobenzoyl chloride (27 mmols) in 35 mL ether. The reaction was stirred overnight, and a white precipitate was formed. Ether (50 mL) was added, and the reaction mixture was then washed with aqueous KHSO4, aqueous NaHCO3, and water. The ether layer was then dried over Na2SO4, filtered, and concentrated to give 6.3 g of 4-nitrobenzoic acid 2-bromo-ethyl ester. Material was used in coupling reactions without further purification.

reactant | bromoethanol | 29 mmols | BrC(C)O | C2H5BrO
reactant | Pyridine | 34 mmols | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoyl chloride | 27 mmols | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | ether | 25 mL | CCOCC | C4H10O
reactant | ether | 35 mL | CCOCC | C4H10O
reactant | Ether | 50 mL | CCOCC | C4H10O
product | 4-nitrobenzoic acid 2-bromo-ethyl ester | 6.3 g | BrCCOC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C9H8BrNO4
